US07772262B2
f) Methyl 4-[4-(4-fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoate
18.00 g of 4-(4-fluorophenyl)isothiazolidine 1,1-dioxide, 20.59 g of methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate (Journal of Medicinal Chemistry (1997), 40(13), 2017) and 81.75 g of Cs2CO3 were stirred in 500 ml of anhydrous DMF at RT for 5 hours. Then a further 2.00 g of methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate were added, and the mixture was stirred at RT for 1 hour and left to stand at RT for 15 hours. The reaction mixture was poured into 1800 ml of water and stirred at RT for 1 hour, and the product was filtered off with suction. The product was then dissolved in 1 l of EA, and the solution was mixed with MgSO4 and activated carbon and stirred at RT for 15 minutes. It was then filtered and the solvent was removed in vacuo. 35.00 g of a colorless foam were obtained.

reactant | 4-(4-fluorophenyl)isothiazolidine 1,1-dioxide | 18.00 g | FC1=CC=C(C=C1)C1CNS(C1)(=O)=O | C9H10FNO2S
reactant | methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate | 20.59 g | FC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11FO4S
reactant | Cs2CO3 | 81.75 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl 4-fluoro-5-methanesulfonyl-2-methylbenzoate | 2.00 g | FC1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C10H11FO4S
reactant | water | 1800 ml | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | Methyl 4-[4-(4-fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoate | 35.00 g | FC1=CC=C(C=C1)C1CN(S(C1)(=O)=O)C1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C19H20FNO6S2
